US08703765B2
3-{(S)-Cyclopropyl-[4-(2-methyl-pyrimidin-5-yl)-phenyl]methyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one
The title compound was prepared from 3-{(S)-cyclopropyl-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one {prepared in analogy to the intermediate in Example 3 from 3-[(S)-(4-bromo-phenyl)-cyclopropyl-methyl]-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one} and 5-bromo-2-methyl-pyrimidine following a procedure analogous to that described in Example 3. LC-MS (Method 1): tR=3.28 min; Mass spectrum (ESI+): m/z=472 [M+H]+.

reactant | 3-{(S)-cyclopropyl-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | C1(CC1)[C@H](N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C30H40BNO5
reactant | 3-[(S)-(4-bromo-phenyl)-cyclopropyl-methyl]-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=CC=C(C=C1)[C@@H](N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)C1CC1 | C24H28BrNO3
reactant | 5-bromo-2-methyl-pyrimidine | BrC=1C=NC(=NC1)C | C5H5BrN2
product | 3-{(S)-Cyclopropyl-[4-(2-methyl-pyrimidin-5-yl)-phenyl]methyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | C1(CC1)[C@H](N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)C1=CC=C(C=C1)C=1C=NC(=NC1)C | C29H33N3O3
